US04588732
A solution of 5-[p-(cyanomethyl)phenethyl]-imidazo[1,5-a]pyridine (6.0 g) in 16 ml of dry dimethylformamide is heated at 120° for 15 hours with sodium azide (2.15 g), lithium chloride (0.2 g) and ammonium chloride (1.80 g). After cooling and filtering, the solvent is evaporated and the residue is dissolved in 50 ml of water, extracted with 25 ml of ethyl acetate and brought to pH=5 with concentrated sulfuric acid. The precipitated solid is filtered, washed with water and dried to yield 5-[p-(5-tetrazolylmethyl)phenethyl]-imidazo[1,5-a]pyridine.

reactant | 5-[p-(cyanomethyl)phenethyl]-imidazo[1,5-a]pyridine | 6.0 g | C(#N)CC1=CC=C(CCC2=CC=CC=3N2C=NC3)C=C1 | C17H15N3
reactant | sodium azide | 2.15 g | [N-]=[N+]=[N-].[Na+]
reactant | lithium chloride | 0.2 g | [Cl-].[Li+]
reactant | ammonium chloride | 1.80 g | [Cl-].[NH4+]
solvent | dimethylformamide | 16 ml | CN(C=O)C | C3H7NO
product | 5-[p-(5-tetrazolylmethyl)phenethyl]-imidazo[1,5-a]pyridine | N1N=NN=C1CC1=CC=C(CCC2=CC=CC=3N2C=NC3)C=C1 | C17H16N6
